US04271071
A mixture of 18.0 g (0.1 mole) of m-nitroacetamido aniline, 26.0 g (0.2 mole) ethyl acetoacetate, 100 ml ethanol, 3.0 g of 5% Pt/C and 0.5 g of p-toluenesulfonic acid is treated in an autoclave at 165° C. and 1,000 psi of hydrogen until the uptake of hydrogen ceases. The solvent and catalyst are removed to yield 19.53 g of ethyl 3-(3'-acetamidophenylamino)butyrate.

reactant | m-nitroacetamido aniline | 0.1 mole, 18.0 g | [N+](=O)([O-])CC(=O)NC=1C=C(N)C=CC1 | C8H9N3O3
reactant | ethyl acetoacetate | 0.2 mole, 26.0 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | hydrogen | [H][H] | H2
catalyst | Pt/C | 3.0 g | [Pt] | Pt
catalyst | p-toluenesulfonic acid | 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | ethyl 3-(3'-acetamidophenylamino)butyrate | 19.53 g | C(C)(=O)NC=1C=C(C=CC1)NC(CC(=O)OCC)C | C14H20N2O3
